US06057369
t-butyl 7-phenylhept-2-enoate (19 g; 70 mmol) is dissolved in dry CH2Cl2 (120 mL) and trifluoroacetic acid (25 mL) is added slowly. After 5 hours the reaction is concentrated in vacuo and purified by column chromatography using CH2Cl2 to obtain 7-phenylhept-2-enoic acid (7 g; 34 mmol). 1H NMR (300 MHz, CDCl3) δ 12-10 (br, 1H), 7.30-7.24 (m, 2H), 7.20-7.12 (m, 3H), 7.06 (dd, J=15.7, 7 Hz, 1H), 5.80 (d, J=15.7 Hz, 1H), 2.62 (t, J=7.5 HZ, 2H), 2.25 (q, J=7 HZ, 2H), 1.70-1.61 (m, 2H), 1.56-1.46 (m, 2H).

reactant | t-butyl 7-phenylhept-2-enoate | 70 mmol, 19 g | C1(=CC=CC=C1)CCCCC=CC(=O)OC(C)(C)C | C17H24O2
reactant | trifluoroacetic acid | 25 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | CH2Cl2 | 120 mL | C(Cl)Cl | CH2Cl2
product | 7-phenylhept-2-enoic acid | 34 mmol, 7 g | C1(=CC=CC=C1)CCCCC=CC(=O)O | C13H16O2
